US05824691
Chlorosulfonyl isocyanate (18.2 ml) was dropwise added to a solution of methyl 3-(pyrrol-1-yl)benzoate (35.0 g) in dichloromethane (350 ml) at -10°~20° C. and the mixture was stirred for 1 hour at the same temperature. To the mixture was dropwise added N,N-dimethylformamide (105 ml) at the same temperature and the mixture was stirred for 1 hour at 0°-5° C. The reaction mixture was poured into water. The separated organic layer was washed with saturated aqueous sodium bicarbonate solution and water. The organic solution was dried over magnesium sulfate and evaporated in vacuo to give methyl 3-(2-cyanopyrrol-1-yl)benzoate (30.67 g).

reactant | Chlorosulfonyl isocyanate | 18.2 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | methyl 3-(pyrrol-1-yl)benzoate | 35.0 g | N1(C=CC=C1)C=1C=C(C(=O)OC)C=CC1 | C12H11NO2
reactant | N,N-dimethylformamide | 105 ml | CN(C=O)C | C3H7NO
reactant | water | O | H2O
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
product | methyl 3-(2-cyanopyrrol-1-yl)benzoate | 30.67 g | C(#N)C=1N(C=CC1)C=1C=C(C(=O)OC)C=CC1 | C13H10N2O2
